US05155268
3'-Bromo-4'-((methylsulfonyl)amino)acetophenone, (Halogenation)
A mixture of 2.13 g (10 mmol) of N-(4-acetylphenyl)methanesulfonamide, 1.78 g (10 mmol) of N-bromosuccinimide and 0.28 g of dibenzoyl peroxide in 100 ml of carbon tetrachloride is heated for 16 hrs at 80° C. (oil bath). The resulting product is concentrated and extracted with methylene chloride. The extract is deposited on silica gel and chromatographed with 1% methanol-methylene chloride to give a product which is recrystallized from methylene chloride-pet. ether; m.p. 124°-126° C. MW 292.17.

reactant | N-(4-acetylphenyl)methanesulfonamide | 10 mmol, 2.13 g | C(C)(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H11NO3S
reactant | N-bromosuccinimide | 10 mmol, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.28 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3'-Bromo-4'-((methylsulfonyl)amino)acetophenone | BrC=1C=C(C=CC1NS(=O)(=O)C)C(C)=O | C9H10BrNO3S
